US05002967
To a solution of sodium ethoxide, freshly prepared from sodium (1.31 g, 57.2 mmole) in ethyl alcohol (200 ml), was added 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (6.8 g, 28.6 mmole) and the mixture was stirred for one hour. After cooling to 5° C. with an ice bath, 1,1-dimethylethylene oxide (2.06 g, 28.6 mmole) was added and the ice bath removed. After stirring for 5.5 hours the reaction mixture was poured into 10% hydrochloric acid. The ethyl alcohol was removed in vacuo and the aqueous residue was extracted with ethyl acetate. The extracts were combined, dried over sodium sulfate, filtered, and concentrated to give 2,6-bis (1,1-dimethylethyl)-4-[(2-hydroxy-2-methylpropyl)thio]phenol. Trifluoroacetic acid (3 ml) was added to a solution of the phenol intermediate (2.2 g, 7 mmole), followed by addition by syringe of methyl thioglycolate (0.7 g, 6.7 mmole). After three hours the mixture was poured into water (100 ml) and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to an oil. Chromatography on silica gel gave the title dithio compound, m.p. 64°-68°.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 57.2 mmole, 1.31 g | [Na] | Na
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 28.6 mmole, 6.8 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | 1,1-dimethylethylene oxide | 28.6 mmole, 2.06 g | CC1(CO1)C | C4H8O
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
product | 2,6-bis (1,1-dimethylethyl)-4-[(2-hydroxy-2-methylpropyl)thio]phenol | CC(C)(C)C1=C(C(=CC(=C1)SCC(C)(C)O)C(C)(C)C)O | C18H30O2S
